US04071627
Utilizing the procedure of Example V, 2-oximino-3,3,6-trimethyltetrahydro-1,4-thiazin-5-one was reacted with methyl isocyanate in the presence of trimethylamine to yield 3 g of 2-[O-(methylcarbamoyl)oximino]-3,3,6-trimethyltetrahydro-1,4-thiazin-5-one, m.p. 190°-191° C. IR spectrum supported the proposed structure.

reactant | 2-oximino-3,3,6-trimethyltetrahydro-1,4-thiazin-5-one | N(O)=C1SC(C(NC1(C)C)=O)C | C7H12N2O2S
reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | trimethylamine | CN(C)C | C3H9N
product | 2-[O-(methylcarbamoyl)oximino]-3,3,6-trimethyltetrahydro-1,4-thiazin-5-one | 3 g | CNC(=O)ON=C1SC(C(NC1(C)C)=O)C | C9H15N3O3S
